US07745437B2
N-{3-[1-(6-Cyclopropylamino-pyrimidin-4-yl)-1H-imidazol-2-ylamino]-4-methyl-phenyl}-benzamide
A mixture of N-{3-[1-(6-chloro-pyrimidin-4-yl)-1H-imidazol-2-ylamino]-4-methyl-phenyl}-benzamide (2.65 g, 6.55 mmol), cyclopropylamine (8.8 mL, 124.43 mmol) in 2-propanol (30 mL) was heated at 65° C. for 16 h. The reaction mixture was then cooled down to room temperature and concentrated. The residue yellow solid was washed with water, dried under vacuum to afford the title compound. The obtained crude title compound was directly used for the next step reaction without any further purification. 1H NMR 600 MHz (DMSO-d6) δ 11.13 (bs, 1H), 10.24 (s, 1H), 8.77 (s, 1H), 8.48 (bs, 1H), 8.10 (bs, 1H), 7.98 (d, 2H, J=6.0 Hz), 7.71 (bs, 1H), 7.57 (s, 1H), 7.52 (s, 2H), 7.34 (d, 1H, J=6.6 Hz), 7.15 (d, 1H, J=6.6 Hz), 6.88 (s, 1H), 6.74 (bs, 1H), 2.61 (bs, 1H), 2.33 (s, 3H), 0.82 (s, 2H), 0.53 (s, 2H); MS m/z 426.5 (M+1).

reactant | N-{3-[1-(6-chloro-pyrimidin-4-yl)-1H-imidazol-2-ylamino]-4-methyl-phenyl}-benzamide | 6.55 mmol, 2.65 g | ClC1=CC(=NC=N1)N1C(=NC=C1)NC=1C=C(C=CC1C)NC(C1=CC=CC=C1)=O | C21H17ClN6O
reactant | cyclopropylamine | 124.43 mmol, 8.8 mL | C1(CC1)N | C3H7N
solvent | 2-propanol | 30 mL | CC(C)O | C3H8O
product | N-{3-[1-(6-Cyclopropylamino-pyrimidin-4-yl)-1H-imidazol-2-ylamino]-4-methyl-phenyl}-benzamide | C1(CC1)NC1=CC(=NC=N1)N1C(=NC=C1)NC=1C=C(C=CC1C)NC(C1=CC=CC=C1)=O | C24H23N7O
